US05804593
Preparation of 2(R)-[(4-methoxybenzenesulfonyl)amino]-2-phenyl acetic acid
To a suspension of 3 mmol of 2(R)-[(4-methoxybenzenesulfonyl)amino]-2-phenyl acetic acid methyl ester in 15 mL of ethanol is added 5 mL of aqueous 2.5M sodium hydroxide. The solid suspension dissolved, and is allowed to stir, stoppered, at ambient temperature overnight. The resulting suspension is acidified with aqueous 10% HCl and extracted with ethyl acetate, adding brine to facilitate phase separation. The organic phase is washed with water and with brine and dried over sodium sulfate. It is concentrated to afford 0.95 g (quantitative yield) of a white solid.

reactant | 2(R)-[(4-methoxybenzenesulfonyl)amino]-2-phenyl acetic acid methyl ester | 3 mmol | COC([C@@H](C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C16H17NO5S
reactant | sodium hydroxide | 2.5M | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2(R)-[(4-methoxybenzenesulfonyl)amino]-2-phenyl acetic acid | 0.95 g, quantitative yield | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)C1=CC=CC=C1 | C15H15NO5S
